US07375134B2
A mixture of (2S)-2-{(R)-[(4-bromophenyl)-(4-fluorophenyl)-methyl]-amino}-4-methylpentanoic acid cyanomethylamide (0.27 g, 0.636 mmol), 2-(4-methanesulfonylphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (0.177 g, 0.626 mmol) and potassium carbonate (0.703 mL of a 2.0 M solution) in DMF (5 mL) was degassed. [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II), dichloromethane complex (27 mg, 0.038 mmol) was added. The reaction mixture was heated in a sealed tube at 80-85° C. for 3 hours and cooled to room temperature. Ethyl acetate (15 mL) was added. The reaction mixture was washed with brine (10 mL), saturated aqueous NaHCO3 (10 mL), brine (10 mL), filtered through a plug of MgSO4/DARCO activated charcoal/silica gel, concentrated in vacuo, and purified by preparative TLC (Chromatotron® using 5% ethyl acetate/dichloromethane to elute to give N1-(cyanomethyl)-N2-{(S)-(4-fluorophenyl)[4′-(methylsulfonyl)-1,1′-biphenyl-4-yl]methyl}-L-leucinamide.

reactant | (2S)-2-{(R)-[(4-bromophenyl)-(4-fluorophenyl)-methyl]-amino}-4-methylpentanoic acid cyanomethylamide | 0.636 mmol, 0.27 g | C(#N)CNC([C@H](CC(C)C)N[C@H](C1=CC=C(C=C1)F)C1=CC=C(C=C1)Br)=O | C21H23BrFN3O
reactant | 2-(4-methanesulfonylphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.626 mmol, 0.177 g | CS(=O)(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H19BO4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N1-(cyanomethyl)-N2-{(S)-(4-fluorophenyl)[4′-(methylsulfonyl)-1,1′-biphenyl-4-yl]methyl}-L-leucinamide | C(#N)CNC([C@@H](N[C@@H](C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)F)CC(C)C)=O | C28H30FN3O3S
